US07906528B2
To a solution of 2-[5-(2,6-diethyl-phenyl)-1-(4-isopropyl-phenyl)-1H-pyrrolo[2,3-c]pyridin-3-ylmethyl]-pentan-1-ol (100 mg, 0.20 mmol) in DCM (3 mL), DMAP (1 mg), Et3N (60 μL, 0.42 mmol), and isopropyl isocyanate (30 μL, 0.3 mmol) are added, and the mixture is stirred for 18 h at room temperature. All volatiles are removed under reduced pressure, and the product is purified by chromatography on silica gel (EtOAc-hexane, 2:1) to afford isopropyl-carbamic acid 2-[5-(2,6-diethyl-phenyl)-1-(4-isopropyl-phenyl)-1H-pyrrolo[2,3-c]pyridin-3-ylmethyl]-pentyl ester as colorless oil: LCMS m/z 554.18 (2.71 min).

reactant | 2-[5-(2,6-diethyl-phenyl)-1-(4-isopropyl-phenyl)-1H-pyrrolo[2,3-c]pyridin-3-ylmethyl]-pentan-1-ol | 0.20 mmol, 100 mg | C(C)C1=C(C(=CC=C1)CC)C=1C=C2C(=CN1)N(C=C2CC(CO)CCC)C2=CC=C(C=C2)C(C)C | C32H40N2O
reactant | Et3N | 0.42 mmol, 60 μL | CCN(CC)CC | C6H15N
reactant | isopropyl isocyanate | 0.3 mmol, 30 μL | C(C)(C)N=C=O | C4H7NO
solvent | DCM | 3 mL | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 1 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | isopropyl-carbamic acid 2-[5-(2,6-diethyl-phenyl)-1-(4-isopropyl-phenyl)-1H-pyrrolo[2,3-c]pyridin-3-ylmethyl]-pentyl ester | C(C)C1=C(C(=CC=C1)CC)C=1C=C2C(=CN1)N(C=C2CC(COC(NC(C)C)=O)CCC)C2=CC=C(C=C2)C(C)C | C36H47N3O2
